US06887896B1
(2E)-3-(4-Bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-4-methyl-pent-2-en-1-ol (Compound A-138)
Following General Procedure G-1, (2E)-3-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-4-methyl-pent-2-enoic acid ethyl ester (Compound A-127, 196 mg, 0.40 mmol) and diisobutylaluminum hydride (1 M in methylene chloride, 1.0 mL, 1.0 mmol) were reacted to give the title compound as a yellow syrup after purification by flash chromatography (silica gel, 10% ethyl acetate in hexanes).

reactant | (2E)-3-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-4-methyl-pent-2-enoic acid ethyl ester | 0.40 mmol, 196 mg | C(C)OC(/C(=C(/C(C)C)\C1=CC=2C(=CCC(C2C(=C1OCC)Br)(C)C)C(C)C)/F)=O | C25H34BrFO3
reactant | diisobutylaluminum hydride | 1.0 mmol, 1 M, 1.0 mL | [H-].C(C(C)C)[Al+]CC(C)C
product | (2E)-3-(4-Bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-4-methyl-pent-2-en-1-ol | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\CO)/F)/C(C)C)OCC | C23H32BrFO2
